US04125614
13.8 g of 4'-chloro-3'-propylsulfamoylacetophenone were reacted as described in Example 1(a) with 8 g of bromine to give the 2-bromo-4'-chloro-3'-propylsulfamoylacetophenone, melting point: 96° C., from isopropanol).

reactant | 4'-chloro-3'-propylsulfamoylacetophenone | 13.8 g | ClC1=C(C=C(C=C1)C(C)=O)S(NCCC)(=O)=O | C11H14ClNO3S
reactant | bromine | 8 g | BrBr | Br2
product | 2-bromo-4'-chloro-3'-propylsulfamoylacetophenone | BrCC(=O)C1=CC(=C(C=C1)Cl)S(NCCC)(=O)=O | C11H13BrClNO3S
